US04879295
To a solution of ethyl 2-(3-hydroxy-2-pyridyl)-4-thiazolecarboxylate (350 mg) dissolved in ethanol (7 ml) at 80° C. was added a solution of potassium hydroxide (436 mg) in water (5.5 ml) and the mixture was allowed to react at the same condition for 30 minutes. Then the reaction mixture was nuetralized with 1N--HCl under ice-cooling. The resulting solids were sucked off and dried to give yellowish crystals of 2-(3-hydroxy-2-pyridyl)-4-thiazolecarboxylic acid (287 mg, 92%), m.p. above 300° C.

reactant | ethyl 2-(3-hydroxy-2-pyridyl)-4-thiazolecarboxylate | 350 mg | OC=1C(=NC=CC1)C=1SC=C(N1)C(=O)OCC | C11H10N2O3S
reactant | potassium hydroxide | 436 mg | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | ethanol | 7 ml | C(C)O | C2H6O
solvent | water | 5.5 ml | O | H2O
product | 2-(3-hydroxy-2-pyridyl)-4-thiazolecarboxylic acid | 287 mg, 92% | OC=1C(=NC=CC1)C=1SC=C(N1)C(=O)O | C9H6N2O3S
